### ISSUE TITLE
simp fails, dsimp succeeds

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#4339]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the following example, `simp` fails to make progress, `dsimp` succeeds:
```lean
def mid {α} (T : α) := T

structure HH (A B : Nat) where
  toFun : Nat
  prop : True

set_option pp.explicit true
set_option trace.Meta.Tactic.simp true
example {S T : Nat} (f : Nat) :
  HH.mk (B := T) f trivial = id (α := HH S T) (HH.mk (B := mid T) f trivial) := by
  -- choose one:
  simp only [mid]  -- error
  -- dsimp only [mid] -- succeeds
  -- unfold mid -- succeeds
  rfl
```

### Context

found by Sven Manthe; [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20more.20powerful.20than.20dsimp.3F)

### Versions

This behavior happens on `4.8.0-rc2` and `4.9.0-nightly-2024-06-04`.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
